US04254116
5,5-Dimethyl-8-(2-eicosyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(2-eicosyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(2-eicosyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCCCCCCCCCCCCCCCC)O)C=2C1=CC=NC2)C | C34H53NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(2-eicosyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CCCCCCCCCCCCCCCCCC)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C43H68N2O3.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-21-25-35(2)36-32-39(47-41(46)26-24-31-45-29-22-20-23-30-45)42-37-34-44-28-27-38(37)43(3,4)48-40(42)33-36;/h27-28,32-35H,5-26,29-31H2,1-4H3;1H
